US09289430B2
Into a 100-mL round-bottom flask, was placed a solution of 3-nitro-1-(3-(trifluoromethyl)phenyl)-1H-pyrazole (7 g, 27.24 mmol, 1.00 equiv) in methanol (30 mL). The mixture was treated with Pd/C (3 g) and stirred under a hydrogen atmosphere overnight at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum to yield 6 g (97%) of 1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-amine as a white solid.

reactant | 3-nitro-1-(3-(trifluoromethyl)phenyl)-1H-pyrazole | 27.24 mmol, 7 g, 1.00 equiv | [N+](=O)([O-])C1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F | C10H6F3N3O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 3 g | [Pd] | Pd
product | 1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-amine | 6 g, 97% | FC(C=1C=C(C=CC1)N1N=C(C=C1)N)(F)F | C10H8F3N3
